US09023840B2
Step 2: 5-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}pyridine-2-carboxylic acid
A mixture of lithium hydroxide monohydrate (0.87 g, 21 mmol) and methyl 5-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}pyridine-2-carboxylate (3.70 g, 6.79 mmol) in methanol (10.0 mL) and water (5.0 mL) was stirred at room temperature overnight. The mixture was adjusted to pH 3 with aqueous HCl (1.0 N), and concentrated under reduced pressure to remove methanol. The solid formed was filtered and washed with water, and dried under reduced pressure to afford the crude product. LCMS (M+H)+: m/z=531.1.

reactant | lithium hydroxide monohydrate | 21 mmol, 0.87 g | O.[OH-].[Li+]
reactant | methyl 5-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}pyridine-2-carboxylate | 6.79 mmol, 3.70 g | C(#N)CC1(CN(C1)C=1C=CC(=NC1)C(=O)OC)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C27H32N8O3Si
reactant | HCl | 1.0 N | Cl | ClH
solvent | methanol | 10.0 mL | CO | CH4O
solvent | water | 5.0 mL | O | H2O
product | 5-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}pyridine-2-carboxylic acid | C(#N)CC1(CN(C1)C=1C=CC(=NC1)C(=O)O)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C26H30N8O3Si
